US09290511B2
4-(2-Pyrrolidin-1-ylethoxymethyl)piperidine (0.10 g, 0.47 mmol), triethylamine (0.089 mL, 0.63 mmol) and 4-chloro-2-cyclopropyl-5-(2-methoxyphenyl)thieno[2,3-d]pyrimidine (0.10 g, 0.32 mmol) were combined and heated to 50° C. in ethanol (10 mL) overnight. The solvent was removed at reduced pressure. The residue was taken up in DCM (20 mL), washed with water (20 mL) and the organic dried over Na2SO4 and concentrated at reduced pressure. The resulting residue was purified by flash chromatography, eluting with a gradient of DCM to 90/10/1 DCM/MeOH/NH4OH to afford 2-cyclopropyl-5-(2-methoxyphenyl)-4-[4-(2-pyrrolidin-1-ylethoxymethyl)-1-piperidyl]thieno[2,3-d]pyrimidine (0.03 g). LCMS: purity 100%, RT=3.62 min, M+1=493.1

reactant | 4-(2-Pyrrolidin-1-ylethoxymethyl)piperidine | 0.47 mmol, 0.10 g | N1(CCCC1)CCOCC1CCNCC1 | C12H24N2O
reactant | triethylamine | 0.63 mmol, 0.089 mL | C(C)N(CC)CC | C6H15N
reactant | 4-chloro-2-cyclopropyl-5-(2-methoxyphenyl)thieno[2,3-d]pyrimidine | 0.32 mmol, 0.10 g | ClC=1C2=C(N=C(N1)C1CC1)SC=C2C2=C(C=CC=C2)OC | C16H13ClN2OS
solvent | ethanol | 10 mL | C(C)O | C2H6O
product | 2-cyclopropyl-5-(2-methoxyphenyl)-4-[4-(2-pyrrolidin-1-ylethoxymethyl)-1-piperidyl]thieno[2,3-d]pyrimidine | 0.03 g | C1(CC1)C=1N=C(C2=C(N1)SC=C2C2=C(C=CC=C2)OC)N2CCC(CC2)COCCN2CCCC2 | C28H36N4O2S
